US08445685B2
4-[2-(5-Ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzaldehyde (9, X═OMs)
0.89 g (0.0088 mol) triethyl amine was added to a solution of 0.2 g (0.0007 mol) 4-[2-(5-ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde and 0.098 g (0.0008 mol) mesyl chloride dissolved in 5 mL dichloromethane at 0-5° C. Reaction mixture was stirred at 0-5° C. for 4 hr. Progress of the reaction was monitored by TLC and after completion of reaction, substantial work-up in excess water yielded 0.18 g (70%) of the desired product. The product obtained was characterized by Mass and 1H NMR, which are as given below.

reactant | triethyl amine | 0.0088 mol, 0.89 g | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(5-ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde | 0.0007 mol, 0.2 g | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)O | C16H17NO3
reactant | mesyl chloride | 0.0008 mol, 0.098 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[2-(5-Ethyl-pyridin-2-yl)-2-mesyl-ethoxy]-benzaldehyde | 0.18 g, 70% | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)S(=O)(=O)C | C17H19NO4S
